US07750160B2
Synthesis of (3-tert-Butyl-isoxazol-5-yl)-thiocarbamic acid S-(4-methoxy-phenyl) ester
A mixture of 4-Methoxy-benzenethiol (0.20 g, 1 eq) and potassium carbonate (0.47 g, 2.5 eq) in dry THF was allowed to stir at room temperature under argon for an hour. Then the stirred suspension was cooled to 0° C. and to it was added drop wise a solution of phosgene (0.17 g 1.2 eq). The reaction stirred at 0° C. for half an hour. Then 3-tert-Butyl-isoxazol-5-ylamine (0.20 g, 1 eq) in THF was added dropwise. The reaction was allowed to warm to room temperature and stirred overnight. The solvent was removed and extracted with ethyl acetate and water. The organic layer was dried over magnesium sulfate and solvent removed. It was purified by HPLC. Yield: 157 mg (36%), LC/MS [MH+] 307.

reactant | 4-Methoxy-benzenethiol | 0.20 g, 1 eq | COC1=CC=C(C=C1)S | C7H8OS
reactant | potassium carbonate | 0.47 g, 2.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | phosgene | 0.17 g, 1.2 eq | C(=O)(Cl)Cl | CCl2O
reactant | 3-tert-Butyl-isoxazol-5-ylamine | 0.20 g, 1 eq | C(C)(C)(C)C1=NOC(=C1)N | C7H12N2O
solvent | THF | C1CCOC1 | C4H8O
product | (3-tert-Butyl-isoxazol-5-yl)-thiocarbamic acid S-(4-methoxy-phenyl) ester | COC1=CC=C(C=C1)SC(NC1=CC(=NO1)C(C)(C)C)=O | C15H18N2O3S
